US06110914
5'-(N-Methylamino)spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine]
Under a nitrogen atmosphere, sodium (50 mg, 2.17 mmol) was slowly added (exothermic) to methanol (1 mL) and stirred for 1 hour. 5'-Aminospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] (115 mg, 0.5 mmol) and paraformaldehyde (35 mg, 1.17 mmol) were added and stirred for 16 hours. The reaction was heated at 50° C. for 4 hours, sodium borohydride (53 mg, 1.4 mmol) was added, and heated at reflux for 1 hour. Then, 1 N aqueous potassium hydroxide (0.4 mL) was added and continued at reflux for 2 hours more. The solvent was evaporated under reduced pressure, the residue was partitioned between water (1 mL) and chloroform (4 mL), separated and extracted the aqueous phase with chloroform (2×4 mL). The combined organic layers were washed with brine (1 mL), dried (MgSO4), evaporated under reduced pressure, and purified by flash chromatography through silica gel (eluting with ammoniated chloroform/methanol, 95:5) to obtain the title compound (78 mg, 0.32 mmol, 64%) as an off-white solid: electrospray MS (m/z, relative intensity) 246 ([MH]+, 100).

reactant | sodium | 2.17 mmol, 50 mg | [Na] | Na
reactant | 5'-Aminospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 0.5 mmol, 115 mg | NC=1C=C2C(=NC1)OC1(C2)CN2CCC1CC2 | C13H17N3O
reactant | paraformaldehyde | 1.17 mmol, 35 mg | C=O | CH2O
reactant | sodium borohydride | 1.4 mmol, 53 mg | [BH4-].[Na+]
reactant | potassium hydroxide | 1 N, 0.4 mL | [OH-].[K+]
solvent | methanol | 1 mL | CO | CH4O
product | 5'-(N-Methylamino)spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 0.32 mmol, 78 mg, 64% | CNC=1C=C2C(=NC1)OC1(C2)CN2CCC1CC2 | C14H19N3O
